US05972937
N,N-Dimethyl-3-aminobenzamide (D24)
N,N-Dimethyl-3-nitrobenzamide (D23) (0.94 g, 4.8 mmol) was hydrogenated in ethanol (100 ml) over 10% Palladium-Charcoal (0.25 g) for 1 hour. The catalyst was removed by filtration through Kieselguhr, and the filtrate concentrated in vacuo to afford the title compound as a light brown solid (0.68 g, 87%).

reactant | N,N-Dimethyl-3-nitrobenzamide | 4.8 mmol, 0.94 g | CN(C(C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C9H10N2O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Palladium-Charcoal | 0.25 g | [Pd] | Pd
product | N,N-Dimethyl-3-aminobenzamide | 0.68 g, 87% | CN(C(C1=CC(=CC=C1)N)=O)C | C9H12N2O
